2136-01-29 08:18:00 Physician Resident Progress Note
Chief Complaint: Unresponsive with hypopnea at home.
   51M HIV (CD4 100 and VL 79,000 on [**2135-12-2**]) c/b toxo, seizures and
   prior episodes of meningitis p/w gait disturbance, lethargy, fever,
   cough and progressive obtundation over prior two days (including
   episodes of dropping). Found by EMS in respiratory distress with sat
   70%, RR increased by naloxone. Intubated in ED. Lesions on CT and MRI
   unchanged (peri-vermal cerebellar and mesencephalic/diencephalic). CXR
   c dense R infiltrate and volume loss.
   Impression: Pneumonia and possible toxicity of numerous psychotropic
   medications. Also possible poor compliance and worsened HIV with CNS
   infection (see below).
   24 Hour Events:
 EEG - At [**2136-1-28**] 09:15 AM - while on fentanyl/Versed
 EKG - At [**2136-1-28**] 11:30 AM
 prolonged QT/QTc and bradycardia.
 MAGNETIC RESONANCE IMAGING - At [**2136-1-28**] 10:45 PM
   - MRI : No read, but compared to previous appears to be no significant
   change in cerebrellar and mesencephalic/posterior hypothalamic lesion
   (except present has more cuts). So movement artifact.
   - Episodes of bradycardia/hypotension/unresponsiveness with HR ~ 50 and
   SBP ~80
   - When aroused would typically have rate ~90 and SBP in 120s
   - Slightly agitated when aroused and needing restraints, yesterday.
   - Versed infusion at 4 for MRI and left this way overnight.
   - Spoke to wife who thinks restarting baclofen this week may have been
   the cause.
   - Just Versed for sedation last night and this a.m.
   Allergies:
   Penicillins
   Rash;
   Morphine
   anxiety
   diapho
   Last dose of Antibiotics:
   Vancomycin - [**2136-1-28**] 08:00 AM
   Acyclovir - [**2136-1-28**] 10:15 AM
   Ceftriaxone - [**2136-1-28**] 02:00 PM
   Azithromycin - [**2136-1-28**] 07:52 PM
   Metronidazole - [**2136-1-29**] 03:32 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2136-1-29**] 01:18 AM
   Heparin Sodium (Prophylaxis) - [**2136-1-29**] 01:18 AM
   Midazolam (Versed) - [**2136-1-29**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-1-29**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 87 (53 - 101) bpm
   BP: 138/75(99) {77/42(55) - 149/81(109)} mmHg
   RR: 33 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  5,996 mL
                                                                    585 mL
   PO:
             TF:
   IVF:
                                                                  5,286 mL
                                                                    585 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                    680 mL
   Urine:
                                                                  2,980 mL
                                                                    480 mL
   NG:
                                                                    850 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,166 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 502 (500 - 502) mL
   Vt (Spontaneous): 384 (384 - 384) mL
   PS : 5 cmH2O
   RR (Set): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.49/31/99.[**Numeric Identifier 126**]/22/1
   Ve: 9.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Lying in bed. Intubated. Comatose (see Neurologic exam below).
   Lungs clear, symmetric and good air entry.
   Heart sounds dual, no M/R/G.
   No new skin lesions
 overall dry. Area of erythema on foot unchanged.
   Extremities well perfused, poor nail care.
   Patient appears obtunded with no spontaneous movement, lordosis of
   neck. Comatose - No response to sternal rub, minimal muscle movement in
   affected limb with nail-bed compression and slight increase in BP.
   Breathing spontaneously on pressure support with tachypnea and low
   tidal volumes; normal minute ventilation. Pupils miotic and ~ 2-3 mm,
   but reactive to light. Doll
s eye intact. Exotropia/divergent gaze.
   Resting position downward, even on initial eye opening. No spontaneous
   facial movements. Gag and corneal not tested. Tone flaccid in limbs,
   and normal in neck, despite lordotic posture. Muscle bulk normal. Only
   minimal arm movements to pain. Patella reflexes symmetrically intact
   and normal. Toes downgoing.
   Labs / Radiology
   152 K/uL
   11.3 g/dL
   123 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   12 mg/dL
   115 mEq/L
   144 mEq/L
   33.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2136-1-28**]  12:18 AM
                             [**2136-1-28**]  04:23 AM
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
   WBC
   15.5
   12.9
   Hct
   37.9
   33.6
   Plt
   193
   152
   Cr
   0.8
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   24
   25
   24
   Glucose
   138
   123
   Other labs: PT / PTT / INR:16.1/31.2/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**11-29**], Alk Phos / T Bili:59/1.1, Lactic
   Acid:1.2 mmol/L, LDH:114 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: CSF unremarklable.
   Imaging: MRI as above, pending final read.
   Microbiology: Numerous studies:
   Cryptococcal negative
   Legionella not back from urine
   Gram stain negative from CSF and bulla
   Viral cultures and antigen tests peding
   PCP negative
   ECG: Bradycardia with prolonged QT/QTc.
   Assessment and Plan
   51yo M with HIV (CD4 152) on HAART, history of bacterial meningitis,
   toxoplasmosis, seizure disorder, who presents after being found
   unresponsive.
   # Altered Mental Status
      Major etiologies include drug effect, CNS infection, CNS lesion,
   status epilepticus/seizure, hypoxic injury in context of earlier drug
   intoxication, delirium secondary to other infection or compound of
   ADC/past neurologic injury with decreased reserve in context of
   infection. To this end we have examined drug interactions, held most
   psychotropics, perfomed CT and MRI, EEG and have investigated
   underlying infections and are treating pneumonia.
      HIV is important consideration for differential diagnosis. CD4 count
   on [**2135-12-2**] was 100 per uL and VL 79,000 copies/mL. Given rapid
   fluctuations and poor compliance previously, this may not represent
   present level. Primary CNS lymphoma unlikely given CSF, but await signs
   of leptomeningeal enhancement/infiltration on MRI. Cryptococcus CSF and
   blood negative.
      CSF is bland except for high protein (76
 near double upper limit
   of normal). C/w viral meningitis and possibly mycobacterial if CD4
   count is low. Will await CD4 count and VL along with laboratory
   results. HTLV, HSV, VZV still possible although latter two might show
   in MRI also.
      Drug effect is likely given numerous psychotropic medications in
   context of very long medication list with unclear metabolic
   consequences. Temporally linked to restarting baclofen. Naloxone was
   effective initiall, but given patient on opioids may have non-specific
   arousing effect. Reserve may also be decreased given previous
   toxoplasmosis lesion including parabrachial nucleus, cuneiform area and
   posterolateral hypothalamus on the left - regions that are implicated
   for driving wakefulness. This lesion appears to be stable and he has
   clearly recovered cortical function after the original presentation,
   but this may result in decreased 'reserve', although this is
   speculative. Underlying pneumonia is another possible contributor.
   Other CNS infections are possible, but less likely given negative
   workup so far and bland CSF. Seizure does not appear likely in view of
   presentation and fluctuation, but EEG may not be helpful in context of
   fentanyl and Versed being given at that time. Possible secondary to
   hypoxemia in context of underlying pneumonia, although less likely.
   - Continue outpatient Keppra
   - Add-on PCR for HSV/VZV, consider HTLV later
   - Follow mental status - expect to clear given Rx of pneumonia and
   holding psychotropics
   - Minimize and use single [**Doctor Last Name **] sedation (with Versed)
   - F/u Neurology and ID recs
   - Await final MRI read
   - HIV - CD4 and VL
   - Treat underlying pneumonia
   - F/u lab results for infection and flu
   # Hypoxemic Repiratory Failure
      Likely secondary to CNS depression and pneumonia (chemical versus
   bacteria), possible excess of sedating medications/psychotropcs. Flu
   unlikely. O2 sat down to 73% in ED. CXR not consistent with PCP.
   [**Name10 (NameIs) 907**] intubated and sedated. Bronchoscopy showed particulate matter
   in RLL.
   - Continue ceftrizxone/flagyl for aspiration and azithromycin for CAP
   - Stop tamiflu and precautions now antigen back
   - F/u BAL cultures, legionella
   - Minimize sedation as above
   - Repeat CXR in AM
   # Erythematous Lesion with Vesicle
   Unclear etiology. Vesicular lesion concerning for HSV versus bacterial.
   [**Month (only) 51**] be contact dermatitis. Unlikely bacteria in view of negative Gram
   stain. Await viral culture results.
   - Await results
   # HIV
   Last CD4+ 100 and viral load 79,000 [**2135-12-2**]. Need to repeat in view of
   poor compliance and rapid variation previously.
   - Inform Dr. [**Last Name (STitle) 12683**] patient in house.
   - Continue outpatient HAART regimen: Kaletra, Truvada, Atazanavir
   - Adjust medications according to CD4 count.
   # Hx of Seizure
   Continue Keppra. Wife states that this episode was not like previous
   seizures.
   - EEG Today
   - FU Neurology Recommendations
   # FEN: Maintenance IVF, replete electrolytes, NPO
 when vomiting
   stopped then tube feeds.
   # Prophylaxis: Pneumoboots, Famotidine
   # Access:
   18 Gauge - [**2136-1-27**] 05:32 PM
   20 Gauge - [**2136-1-27**] 05:33 PM
   Arterial Line - [**2136-1-27**] 08:19 PM
   # Communication: Patient & partner -currently at home. Will speak with
   her this evening when she returns.
   # Code:  Presumed full. Will discuss with HCP.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-1-27**] 08:19 PM
   20 Gauge - [**2136-1-28**] 07:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-01-30 07:36:00 Physician Resident Progress Note
Chief Complaint: Progressive worsening of mental status and ataxia over
   three days before admission.
   51yo M with HIV (CD4 likely < 100) on HAART, history of bacterial
   meningitis, toxoplasmosis, seizure disorder, who presents after being
   found unresponsive.
   24 Hour Events:
 EKG - At [**2136-1-30**] 01:30 AM
 ULTRASOUND - At [**2136-1-30**] 01:50 AM
   - Patient negative for flu; Tamiflu discontinued.
   - Patient started on tube feeds with nutrition consult placed for
   further recommendations.
   - Neurology admits patient remains a puzzle and will continue to
   follow.
   - ID agrees with current management and will continue to follow.
   - Patient with sinus bradycardia 39-44 at 0100; pacer pads and atropine
   in room with patient. Bradycardia persisted for approximately 2 hours;
   resolved on its own. Episode, +AMS off sedation, +pin point pupils and
   exotropia concern for increased ICP and repeat CT scan obtained. CT
   scan dictation reported to be unchanged.
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Penicillins
   Rash;
   Morphine
   anxiety
   diapho
   Last dose of Antibiotics:
   Vancomycin - [**2136-1-28**] 08:00 AM
   Acyclovir - [**2136-1-28**] 10:15 AM
   Ceftriaxone - [**2136-1-29**] 02:00 PM
   Azithromycin - [**2136-1-29**] 09:06 PM
   Metronidazole - [**2136-1-30**] 03:40 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2136-1-30**] 12:03 AM
   Heparin Sodium (Prophylaxis) - [**2136-1-30**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-1-30**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 63 (41 - 82) bpm
   BP: 141/82(105) {111/64(83) - 147/88(110)} mmHg
   RR: 22 (12 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  2,700 mL
                                                                  1,224 mL
   PO:
             TF:
                                                                     40 mL
                                                                    215 mL
   IVF:
                                                                  2,210 mL
                                                                    789 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    370 mL
   Urine:
                                                                  1,065 mL
                                                                    370 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,435 mL
                                                                    854 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 424 (404 - 538) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   SpO2: 99%
   ABG: 7.47/34/168/22/2
   Ve: 13.9 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Lying in bed. Intubated. Comatose (see Neurologic exam below).
   Lungs clear, symmetric and good air entry.
   Heart sounds dual, no M/R/G.
   No new skin lesions
 overall dry. Area of erythema on foot unchanged.
   Extremities well perfused, poor nail care.
   Patient appears obtunded with no spontaneous movement, lordosis of
   neck. Comatose - No response to sternal rub, minimal muscle movement in
   affected limb with nail-bed compression and slight increase in BP.
   Breathing spontaneously on pressure support with tachypnea and low
   tidal volumes; normal minute ventilation. Pupils miotic and ~ 2-3 mm,
   but reactive to light. Doll
s eye intact. Exotropia/divergent gaze.
   Resting position downward, even on initial eye opening. No spontaneous
   facial movements. Gag and corneal not tested. Tone flaccid in limbs,
   and normal in neck, despite lordotic posture. Muscle bulk normal. Only
   minimal arm movements to pain. Patella reflexes symmetrically intact
   and normal. Toes downgoing.
   Labs / Radiology
   163 K/uL
   11.2 g/dL
   131 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   16 mg/dL
   114 mEq/L
   143 mEq/L
   32.5 %
   7.2 K/uL
        [image002.jpg]
                             [**2136-1-28**]  12:18 AM
                             [**2136-1-28**]  04:23 AM
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
                             [**2136-1-30**]  01:30 AM
                             [**2136-1-30**]  01:32 AM
   WBC
   15.5
   12.9
   7.2
   Hct
   37.9
   33.6
   32.5
   Plt
   193
   152
   163
   Cr
   0.8
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   24
   25
   24
   25
   Glucose
   138
   123
   131
   Other labs: PT / PTT / INR:15.6/31.3/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**11-29**], Alk Phos / T Bili:59/1.1, Lactic
   Acid:0.9 mmol/L, LDH:114 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: .
   Imaging: .
   Microbiology: .
   ECG: .
   Assessment and Plan
   51yo M with HIV (CD4 likely < 100) on HAART, history of bacterial
   meningitis, toxoplasmosis, seizure disorder, who presents after being
   found unresponsive.
   # Altered Mental Status
      Presently more concerned for CNS infection given CD4 count of 40.
   Awaiting VL. Drug effect relatively less likely given long latency
   since most given. Will
   Major etiologies include drug effect, CNS infection, CNS lesion, status
   epilepticus/seizure, hypoxic injury in context of earlier drug
   intoxication, delirium secondary to other infection or compound of
   ADC/past neurologic injury with decreased reserve in context of
   infection. To this end we have examined drug interactions, held most
   psychotropics, perfomed CT and MRI, EEG and have investigated
   underlying infections and are treating pneumonia.
      HIV is important consideration for differential diagnosis. CD4 count
   on [**2135-12-2**] was 100 per uL and VL 79,000 copies/mL. Given rapid
   fluctuations and poor compliance previously, this may not represent
   present level. Primary CNS lymphoma unlikely given CSF, but await signs
   of leptomeningeal enhancement/infiltration on MRI. Cryptococcus CSF and
   blood negative. Given that we do not know where CD4 and VL are at
   present, we will assume he is seriously immune compromised. Syphilis
   (RPR), CMV (culture and PCR), HTLV-I, [**Male First Name (un) 561**] virus (unlikely in view of
   MR), SPECT for CNS lymphoma not yet done. [**Month (only) 51**] be worth repeating LP
   soon also if no other results helpful.
      CSF is bland except for high protein (76
 near double upper limit
   of normal). C/w viral meningitis and possibly mycobacterial if CD4
   count is low. Will await CD4 count and VL along with laboratory
   results. HTLV, HSV, VZV still possible although latter two might show
   in MRI also.
      Drug effect is likely given numerous psychotropic medications in
   context of very long medication list with unclear metabolic
   consequences. Temporally linked to restarting baclofen. Naloxone was
   effective initiall, but given patient on opioids may have non-specific
   arousing effect. Reserve may also be decreased given previous
   toxoplasmosis lesion including parabrachial nucleus, cuneiform area and
   posterolateral hypothalamus on the left - regions that are implicated
   for driving wakefulness. This lesion appears to be stable and he has
   clearly recovered cortical function after the original presentation,
   but this may result in decreased 'reserve', although this is
   speculative. Underlying pneumonia is another possible contributor.
   Other CNS infections are possible, but less likely given negative
   workup so far and bland CSF. Seizure does not appear likely in view of
   presentation and fluctuation, but EEG may not be helpful in context of
   fentanyl and Versed being given at that time. Possible secondary to
   hypoxemia in context of underlying pneumonia, although less likely.
     Pending tests: Viral cultures, VZV, HSV, CD4, HIV VL, AFBs pending
   from BAL.
   - Continue outpatient Keppra
   - HTLV [**Doctor First Name **] w/ reflex from blood
   - Galactomanin from blood
   - RPR
   - AFBs
   - Follow mental status - expect to clear given Rx of pneumonia and
   holding psychotropics
   - Minimize and use single [**Doctor Last Name **] sedation (with Versed)
   - F/u Neurology and ID recs
   - Treat underlying pneumonia
   - F/u pending tests as above
   - Consider SPECT for CNS lymphoma, perhaps after repeating LP if above
   not revealing.
   - Add-on diff. and LFTs
   # Hypoxemic Repiratory Failure
      Likely secondary to CNS depression and pneumonia (chemical versus
   bacteria), possible excess of sedating medications/psychotropcs, but
   less likely now mental status still poor despite holding psychotropics.
   Flu swabs negative. O2 sat down to 73% in ED. CXR not consistent with
   PCP. [**Name10 (NameIs) 907**] intubated and sedated. Bronchoscopy showed particulate
   matter in RLL (likely aspiration).
   - Continue ceftrizxone/flagyl for aspiration and azithromycin for CAP
   - Stop tamiflu and precautions now antigen back
   - F/u BAL cultures, legionella
   - Minimize sedation as above
   - Repeat CXR in AM
   # Erythematous Lesion with Vesicle
   Unclear etiology. Vesicular lesion concerning for HSV versus bacterial.
   [**Month (only) 51**] be contact dermatitis. Unlikely bacteria in view of negative Gram
   stain. Await viral culture results.
   - Await results
   # HIV
   Last CD4+ 100 and viral load 79,000 [**2135-12-2**]. Need to repeat in view of
   poor compliance and rapid variation previously.
   - Inform Dr. [**Last Name (STitle) 12683**] patient in house.
   - Continue outpatient HAART regimen: Kaletra, Truvada, Atazanavir
   - Adjust medication regimen according to CD4 count.
   # Hx of Seizure
   Continue Keppra. Wife states that this episode was not like previous
   seizures.
   - EEG Today
   - FU Neurology Recommendations
   # Bradycardia
   Unclear cause. Widened pulse pressure absent. CT unchanged this a.m.
   Now less hypotensive during episodes of bradycardia. Seems bistable:
   Unresponsive, bradycardic, miotic versus activated, spontaneous
   movement and normal rate and pressure. Paroxysms of parasympathetic
   outflow and worsened mental status. Not obviously seizure activity and
   no motoric component.
   # FEN: Maintenance IVF, replete electrolytes, NPO
 when vomiting
   stopped then tube feeds.
   # Prophylaxis: Pneumoboots, Famotidine
   # Access:
   18 Gauge - [**2136-1-27**] 05:32 PM
   20 Gauge - [**2136-1-27**] 05:33 PM
   Arterial Line - [**2136-1-27**] 08:19 PM
   # Communication: Patient & partner -currently at home. Will speak with
   her this evening when she returns.
   # Code:  Presumed full. Will discuss with HCP.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-1-30**] 06:25 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-1-27**] 08:19 PM
   20 Gauge - [**2136-1-30**] 06:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-01-31 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV, AMS, Fever
   24 Hour Events:
   - Repeated LP and sent for HSV6, HSV, [** **]. PCR, Gram stain, cytology,
   glucose, protein, HIV VL in CSF, [**Male First Name (un) 561**] virus PCR ... Opening pressure 17
   cm of H2O.
   - No sedation - mental status unchanged.
   - Keppa level pending along with RPR, HTLV
   - EEG 24 hour ordered
   - ID and Neurology will continue to follow and agreed with present plan
   - Slightly improved later - robust cough and localizing to chest with
   suctioning.
   - Raising brow to loud verbal stimuli at 21:30, but not opening eyes;
   some more spontaneous movement.
   - IV left looked tissued at 21:30 and swapped ABx to right arm.
   - Very tachypneic (~45) and uncomfortable/moving ~ 22:00 - context of
   bowel movement - settled again (propofol considered if continued to be
   unsettled but not given)
   - Phosphate (2x neutraphos) and K (40 mEq) repleted this a.m. (and same
   given yesterday also)
   - Stopped maintenance IVF given TFs and flushes.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Sweats
   anxiety
   Last dose of Antibiotics:
   Vancomycin - [**2136-1-28**] 08:00 AM
   Acyclovir - [**2136-1-28**] 10:15 AM
   Ceftriaxone - [**2136-1-30**] 03:00 PM
   Azithromycin - [**2136-1-30**] 08:22 PM
   Metronidazole - [**2136-1-31**] 04:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-1-30**] 04:09 PM
   Famotidine (Pepcid) - [**2136-1-31**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-1-31**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 50 (50 - 91) bpm
   BP: 131/72(95) {108/63(84) - 146/98(117)} mmHg
   RR: 30 (17 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  3,296 mL
                                                                    571 mL
   PO:
             TF:
                                                                    605 mL
                                                                    199 mL
   IVF:
                                                                  1,641 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    940 mL
   Urine:
                                                                  1,370 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,926 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 308 (264 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.50/32/184/21/2
   Ve: 12.8 L/min
   PaO2 / FiO2: 460
   Physical Examination
   Lying in bed. Intubated. Comatose (see Neurologic exam below).
   Lungs clear, symmetric and good air entry.
   Heart sounds dual, no M/R/G.
   No new skin lesions
 overall dry. Area of erythema on foot unchanged.
   Extremities well perfused, poor nail care.
   Patient appears obtunded with no spontaneous movement, lordosis of
   neck. Comatose - No response to sternal rub, minimal muscle movement in
   affected limb with nail-bed compression and slight increase in BP.
   Breathing spontaneously on pressure support with tachypnea and low
   tidal volumes; normal minute ventilation. Pupils miotic and ~ 2-3 mm,
   but reactive to light. Doll
s eye intact. Exotropia/divergent gaze.
   Resting position less downward, and now in neutral position or upward
   gaze on initial eye opening. No spontaneous facial movements. Gag not
   tested; corneal reflex and photophobic squinting intact. Tone flaccid
   in limbs, and normal in neck, despite lordotic posture. Muscle bulk
   normal. Only minimal arm movements to pain. Patella reflexes
   symmetrically intact and normal. Toes downgoing.
   No change in hyperpigmented areas of dry skin. No change in
   erythematous area on foot.
   Labs / Radiology
   146 K/uL
   11.6 g/dL
   115 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   111 mEq/L
   139 mEq/L
   34.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2136-1-28**]  04:23 AM
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
                             [**2136-1-30**]  01:30 AM
                             [**2136-1-30**]  01:32 AM
                             [**2136-1-30**]  08:30 AM
                             [**2136-1-30**]  02:15 PM
                             [**2136-1-31**]  03:13 AM
                             [**2136-1-31**]  03:31 AM
   WBC
   15.5
   12.9
   7.2
   7.1
   6.8
   Hct
   37.9
   33.6
   32.5
   35.3
   34.8
   Plt
   193
   152
   163
   183
   146
   Cr
   0.8
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   25
   24
   25
   26
   Glucose
   138
   123
   131
   114
   115
   Other labs: PT / PTT / INR:15.6/31.3/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**6-19**], Alk Phos / T Bili:47/1.7,
   Differential-Neuts:85.0 %, Lymph:11.6 %, Mono:3.0 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:92 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Keppra: Pending
   HTLV I and II: Pending
   Galactomannon: Pending
   Imaging: CXR: Pending
   [**Month/Day (4) 6452**]: [**2136-1-27**] 6:09 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE.
      GRAM STAIN (Final [**2136-1-27**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Final [**2136-1-30**]):
         Commensal Respiratory Flora Absent.
         STREPTOCOCCUS PNEUMONIAE.    SPARSE GROWTH.
            PRESUMPTIVELY PENICILLIN SENSITIVE BY OXACILLIN SCREEN.
         YEAST.    10,000-100,000 ORGANISMS/ML..
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2136-1-27**]):
         PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies.
         if pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 6452**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2136-1-28**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
         YEAST.
      ACID FAST SMEAR (Final [**2136-1-30**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   Vesicle Culture: Viral Culture Pending
      HIV-1 Viral Load/Ultrasensitive (Final [**2136-1-30**]):
         8,930 copies/ml.
   RPR: Pending
   CSF (HSV, HSV-6, [**Male First Name (un) 561**], [**Male First Name (un) 11219**], Varicella): Pending
   Assessment and Plan
   51yo M with HIV (CD4 likely < 100) on HAART, history of bacterial
   meningitis, toxoplasmosis, seizure disorder, who presents after being
   found unresponsive.
   # Altered Mental Status
      Presently more concerned for CNS infection given CD4 count of 40.
   Awaiting VL. Drug effect relatively less likely given long latency
   since most given. Nonetheless, will check Keppra level. Unchanged
   imaging lowers suspicion for primary CNS lymphoma, PML,
   meningoencephalitis of HSV/HSV6. Primary CNS lymphoma unlikely given
   CSF, but await signs of leptomeningeal enhancement/infiltration on MRI.
   Cryptococcus CSF and blood negative. Given that we do not know where
   CD4 and VL are at present, we will assume he is seriously immune
   compromised. Syphilis (RPR), CMV (culture and PCR), HTLV-I, [**Male First Name (un) 561**] virus
   (unlikely in view of MR), SPECT for CNS lymphoma not yet done. [**Month (only) 51**] be
   worth repeating LP soon also if no other results helpful. CSF was bland
   on presentation except for high protein (76
 near double upper limit
   of normal). Repeat today shows normal glucose and protein with
   pleocytosis. Therefore less suspicious for viral meningitis or
   mycobacterial. Will await PCR for toxoplasmosis (he should be [**Month (only) 11219**] IgG
   positive and PCR negative). HTLV, MAC, HSV6, HSV, VZV still possible
   although latter two might show in MRI also. Pending tests: Viral
   cultures, VZV, HSV, HIV VL CSF. No sign of encephalitis on MR and not
   suspicious for primary CNS lymphoma.
   - FU VZV, HSV, HSV6, [**Last Name (LF) 11219**], [**First Name3 (LF) 561**]
   - Continue outpatient Keppra and check level given possible metabolic
   interactions
   - HTLV [**Doctor First Name **] w/ reflex from blood
   - Galactomannon from blood
   - RPR
   - F/u Neurology and ID recs
   - Treat underlying pneumonia
   - F/u pending tests as above
   - Add-on diff. and LFTs
   - Ask lab to hold original blood samples.
   # Hypoxemic Respiratory Failure
      Likely secondary to CNS disorder and less due to pneumonia (chemical
   versus bacteria), possible excess of sedating medications/psychotropcs,
   but less likely now mental status still poor despite holding
   psychotropics. Flu swabs negative. O2 sat down to 73% in ED. CXR not
   consistent with PCP. [**Name10 (NameIs) 907**] intubated and sedated. Bronchoscopy
   showed particulate matter in RLL (likely aspiration). Legionella
   Negative. PCP [**Name Initial (PRE) **].
   - Continue ceftriaxone/flagyl for aspiration and azithromycin for CAP
   - F/u BAL cultures
   - Minimize sedation as above
   - Repeat CXR in AM
   # Erythematous Lesion with Vesicle
   Unclear etiology. Unlikely bacteria given negative Gram Stain. Contact
   dermatitis also possible.
   - Await viral culture
   # HIV
   CD4+ 40 today and viral load 8,930. Discussed above approach with Dr.
   [**Last Name (STitle) **] and Dr. [**Last Name (STitle) 12709**]. Unclear compliance at home, concern for new
   resistance  paterns given low CD4/VL on current regimen.
   - Continue outpatient HAART regimen: Kaletra, Truvada, Atazanavir
   - Adjust medication regimen according to CD4 count.
   # Hx of Seizure
   Continue Keppra. Wife states that this episode was not like previous
   seizures.
   - 24 hour EEG
   - Check Keppra level based on possible metabolic interaction
   - FU Neurology Recommendations
   # Bradycardia
   Unclear cause. None in the last 24 hours.
   - Follow
   # FEN: Maintenance IVF, replete electrolytes, NPO
 when vomiting
   stopped then tube feeds.
   # Prophylaxis: Pneumoboots, Famotidine
   # Access:
   18 Gauge - [**2136-1-27**] 05:32 PM
   20 Gauge - [**2136-1-27**] 05:33 PM
   Arterial Line - [**2136-1-27**] 08:19 PM
   # Communication: Patient & partner -currently at home. Will speak with
   her this evening when she returns.
   # Code:  Presumed full. Will discuss with HCP.
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-1-27**] 08:19 PM
   20 Gauge - [**2136-1-31**] 02:56 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  Famotidine
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2136-01-31 10:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More spontaneous movements last night/this AM
   Repeat LP yesterday
   24 Hour Events:
 BLOOD CULTURED - At [**2136-1-30**] 08:30 AM
   fungal
 SPUTUM CULTURE - At [**2136-1-30**] 09:00 AM
 EKG - At [**2136-1-30**] 11:10 AM
 LUMBAR PUNCTURE - At [**2136-1-30**] 12:32 PM
 STOOL CULTURE - At [**2136-1-30**] 06:04 PM
   ? c-diff
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   Rash;
   Morphine
   Sweats
   anxiety
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-30**] 03:00 PM
   Azithromycin - [**2136-1-30**] 08:22 PM
   Metronidazole - [**2136-1-31**] 04:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-1-30**] 04:09 PM
   Famotidine (Pepcid) - [**2136-1-31**] 12:07 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-1-31**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 65 (50 - 91) bpm
   BP: 138/85(107) {108/63(84) - 146/98(117)} mmHg
   RR: 27 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,296 mL
                                                                    663 mL
   PO:
             TF:
                                                                    605 mL
                                                                    199 mL
   IVF:
                                                                  1,641 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                  1,220 mL
   Urine:
                                                                  1,370 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,926 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 387 (264 - 446) mL
   PS : 5 cmH2O
   RR (Spontaneous): 38
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.50/32/184/21/2
   Ve: 16.6 L/min
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   146 K/uL
   115 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   9 mg/dL
   111 mEq/L
   139 mEq/L
   34.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2136-1-28**]  04:23 AM
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
                             [**2136-1-30**]  01:30 AM
                             [**2136-1-30**]  01:32 AM
                             [**2136-1-30**]  08:30 AM
                             [**2136-1-30**]  02:15 PM
                             [**2136-1-31**]  03:13 AM
                             [**2136-1-31**]  03:31 AM
   WBC
   15.5
   12.9
   7.2
   7.1
   6.8
   Hct
   37.9
   33.6
   32.5
   35.3
   34.8
   Plt
   193
   152
   163
   183
   146
   Cr
   0.8
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   25
   24
   25
   26
   Glucose
   138
   123
   131
   114
   115
   Other labs: PT / PTT / INR:15.6/31.3/1.4, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**6-19**], Alk Phos / T Bili:47/1.7,
   Differential-Neuts:85.0 %, Lymph:11.6 %, Mono:3.0 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:92 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 BRADYCARDIA
 HYPOTENSION (NOT SHOCK)
 .H/O HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 .H/O MENINGITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   51yo M with HIV on HAART, history of bacterial meningitis,
   toxoplasmosis, seizure disorder, who presented after being found
   unresponsive, following several days of progressive obtundation, gait
   disturbance, weakness; respiratory failure due to aspiration event.
   1. Altered mental status: No pleocytosis on repeat LP --> awaiting
   microbiologic studies.  Getting EEG.  Awaiting all other micro
   results.  Still unclear as to what is driving this process.  He is
   slightly more awake today.  ID and Neuro follwing.  Cont
   CTX/Flagyl/azithro.
   2. Respiratory Failure: Remains tachypneic with a respiratory alkalosis
   --> however, tidal volumes adequate on SBT and he has a gag.  Will try
   to extuabte this AM.
   3. HIV: cont HAART
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-1-27**] 08:19 PM
   20 Gauge - [**2136-1-31**] 02:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2136-02-01 07:29:00 Physician Resident Progress Note
Chief Complaint: Altered mental status.
   51yo M with HIV (CD4 40) on HAART, history of bacterial meningitis,
   toxoplasmosis, seizure disorder, who presents with progressive decline
   in mental status, ataxia, then found unresponsive and hypopneic.
   24 Hour Events:
 EEG - At [**2136-1-31**] 10:09 AM
 ARTERIAL LINE - STOP [**2136-1-31**] 10:40 AM
   - Neuro: Diffuse Encephalitis, potentially viral, can cause this
   picture. Continue EEG for now and await remaining microbiology/PCR.
   - ID: Nothing new. Follow cultures
   - Extubated in the AM
   - 24 hour EEG performed, Results pending
   - 1700: Throughout the day became much more interactive, verbalized to
   me "I want to go home," Followed commands.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Sweats
   anxiety
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-31**] 02:18 PM
   Azithromycin - [**2136-1-31**] 08:10 PM
   Metronidazole - [**2136-2-1**] 04:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2136-2-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-2-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 56 (47 - 83) bpm
   BP: 121/74(84) {117/64(72) - 136/98(103)} mmHg
   RR: 26 (22 - 47) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,349 mL
                                                                    220 mL
   PO:
             TF:
                                                                    199 mL
   IVF:
                                                                    940 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    510 mL
   Urine:
                                                                  2,710 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 387) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///22/
   Ve: 16.6 L/min
   Physical Examination
   Lying in bed. Now extubated. EEG cap in place.  (see Neurologic exam
   below).
   Lungs clear, symmetric and good air entry.
   Heart sounds dual, no M/R/G.
   No new skin lesions
 overall dry. Area of erythema on foot unchanged.
   Extremities well perfused, poor nail care. Left hand swollen but less
   than yesterday (infiltrated PIV in wrist).
   Patient is alert with little spontaneous movement. Conversant, without
   spontaneous speech, able to follow instructions, but reduced effort for
   strength exam. Oriented to person, place. Breathing spontaneously with
   3L via nasal cannula. Pupils less miotic and ~ 3-4 mm, reactive to
   light. Exotropia/divergent gaze.Little spontaneous facial movements,
   but no weakness, gag, corneal, swallowing intact. Gag and corneal not
   tested. Tone normal in limbs, and normal in neck. Muscle bulk normal.
   Reduced effort on power exam with weakness of opening R >> L. Patella
   reflexes symmetrically intact and normal. Increased withdrawal to
   stimulation of base of feet, but patient replied
tickles
   Labs / Radiology
   163 K/uL
   12.8 g/dL
   88 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   9 mg/dL
   108 mEq/L
   137 mEq/L
   37.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
                             [**2136-1-30**]  01:30 AM
                             [**2136-1-30**]  01:32 AM
                             [**2136-1-30**]  08:30 AM
                             [**2136-1-30**]  02:15 PM
                             [**2136-1-31**]  03:13 AM
                             [**2136-1-31**]  03:31 AM
                             [**2136-2-1**]  04:28 AM
   WBC
   12.9
   7.2
   7.1
   6.8
   5.0
   Hct
   33.6
   32.5
   35.3
   34.8
   37.7
   Plt
   152
   163
   183
   146
   163
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   25
   24
   25
   26
   Glucose
   123
   131
   114
   115
   88
   Other labs: PT / PTT / INR:13.9/29.2/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**6-19**], Alk Phos / T Bili:47/1.7,
   Differential-Neuts:85.0 %, Lymph:11.6 %, Mono:3.0 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:92 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Fluid analysis / Other labs: See microbiology.
   CSF bland with normal pressure.
   Imaging: CXR today:
   Microbiology:
   MRSA swab positive.
   CSF
   - viral culture: no growth yet
   - Gram: nothing
   - HIV VL: insufficient volume
   - Crypto: -ve
   - CMV PCR: pending
   Stool
   - C. diff.: -ve
   Blood
   - Nothing on cultures
   - CMV IgG and IgM: both -ve
   - RPR: non-reactive
   - Fungal and AFB - nothing yet
   Swab
   - No virus so far
   - Gram stain bland
   BAL
   - No viri in culture
   - Step. pn. > 10,000
   - No legionella
   - Some yeast
   ECG: No new.
   Assessment and Plan
   51yo M with HIV (CD4 40) on HAART, history of bacterial meningitis,
   toxoplasmosis, seizure disorder, who presents with progressive decline
   in mental status, ataxia, then found unresponsive and hypopneic.
   # Altered Mental Status
   Diffuse encephalopathy, possibly secondary to CNS infection, or still
   possible that this was due to drug intoxication. Given previous lesion
   in important portion of arousal system (pontine tegmentum and posterior
   lateral hypothalamus) may have resulted in decreased reserve if other
   factor capable of altering mental status
 even pneumonia.
   - Await pending labs (see above and OMR)
   - Await Keppra level given possible (but unlikely) metabolic
   interactions
   - F/u Neurology and ID recs
   - Treat underlying pneumonia
   - Ask lab to hold original blood samples.
   # Hypoxemic Respiratory Failure
      Likely secondary to CNS disorder and less due to pneumonia (chemical
   versus bacteria), possible excess of sedating medications/psychotropcs,
   but less likely now mental status still poor despite holding
   psychotropics. Flu swabs negative. O2 sat down to 73% in ED. CXR not
   consistent with PCP. [**Name10 (NameIs) 907**] intubated and sedated. Bronchoscopy
   showed particulate matter in RLL (likely aspiration). Legionella
   Negative. PCP [**Name Initial (PRE) **]. Now extubated and doing well. BAL shows strep.
   Pneumoniae.
   - Continue ceftriaxone/flagyl for 7 days for aspiration and
   azithromycin for 5 days for CAP
   - Minimize sedation as above
   - Repeat CXR in AM
   # Erythematous Lesion with Vesicle
   Unclear etiology. Unlikely bacteria given negative Gram Stain. Contact
   dermatitis also possible.
   - Await viral culture
   # HIV
   CD4+ 40 today and viral load 8,930. Discussed above approach with Dr.
   [**Last Name (STitle) **] and Dr. [**Last Name (STitle) 12709**]. Unclear compliance at home, concern for new
   resistance patterns low given low viral load. Low CD4 presently likely
   due to present illness.
   - Continue outpatient HAART regimen: Kaletra, Truvada, Atazanavir
   - Adjust medication regimen according to CD4 count.
   - Follow up labs as above.
   # Hx of Seizure
   Continue Keppra. Wife states that this episode was not like previous
   seizures.
   - 24 hour EEG for now (per Neurology)
   - Await Keppra level based on possible metabolic interaction
   - FU Neurology Recommendations
   # Bradycardia
   Unclear cause. None in the last 24 hours.
   - Follow
   # FEN: Maintenance IVF, replete electrolytes, NPO
 when vomiting
   stopped then tube feeds.
   # Prophylaxis: Pneumoboots, Famotidine
   # Access:
   18 Gauge - [**2136-1-27**] 05:32 PM
   20 Gauge - [**2136-1-27**] 05:33 PM
   Arterial Line - [**2136-1-27**] 08:19 PM
   # Communication: Patient & partner -currently at home. Will speak with
   her this evening when she returns.
   # Code:  Presumed full. Will discuss with HCP.
   # Disposition: Called out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-1-31**] 02:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-01 10:34:00 Physician Attending Progress Note
Chief Complaint: Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday - doing well
   More awake and interactive today but not completely back to baseline
   24 Hour Events:
 EEG - At [**2136-1-31**] 10:09 AM
 ARTERIAL LINE - STOP [**2136-1-31**] 10:40 AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Penicillins
   Rash;
   Morphine
   Sweats
   anxiety
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-1-31**] 02:18 PM
   Azithromycin - [**2136-1-31**] 08:10 PM
   Metronidazole - [**2136-2-1**] 04:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2136-2-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2136-2-1**] 08:00 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Neurologic: No(t) Seizure
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-2-1**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 66 (47 - 83) bpm
   BP: 115/80(87) {115/64(72) - 136/98(103)} mmHg
   RR: 32 (22 - 47) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,349 mL
                                                                    253 mL
   PO:
             TF:
                                                                    199 mL
   IVF:
                                                                    940 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                    675 mL
   Urine:
                                                                  2,710 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,361 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive but
   slowed in reponses
   Labs / Radiology
   12.8 g/dL
   163 K/uL
   88 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   9 mg/dL
   108 mEq/L
   137 mEq/L
   37.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2136-1-28**]  06:25 PM
                             [**2136-1-29**]  03:20 AM
                             [**2136-1-29**]  03:25 AM
                             [**2136-1-30**]  01:30 AM
                             [**2136-1-30**]  01:32 AM
                             [**2136-1-30**]  08:30 AM
                             [**2136-1-30**]  02:15 PM
                             [**2136-1-31**]  03:13 AM
                             [**2136-1-31**]  03:31 AM
                             [**2136-2-1**]  04:28 AM
   WBC
   12.9
   7.2
   7.1
   6.8
   5.0
   Hct
   33.6
   32.5
   35.3
   34.8
   37.7
   Plt
   152
   163
   183
   146
   163
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   25
   24
   25
   26
   Glucose
   123
   131
   114
   115
   88
   Other labs: PT / PTT / INR:13.9/29.2/1.2, CK / CKMB /
   Troponin-T:72//<0.01, ALT / AST:[**6-19**], Alk Phos / T Bili:47/1.7,
   Differential-Neuts:85.0 %, Lymph:11.6 %, Mono:3.0 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:92 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Microbiology: Crypto CSF (repeat): negative
   HSV, VZV, Toxo (repeat CSF): neg
   RPR neg
   Assessment and Plan
 BRADYCARDIA
 HYPOTENSION (NOT SHOCK)
 .H/O HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 .H/O MENINGITIS, BACTERIAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PNEUMONIA, ASPIRATION
   51yo M with HIV on HAART, history of bacterial meningitis,
   toxoplasmosis, seizure disorder, who presented after being found
   unresponsive, following several days of progressive obtundation, gait
   disturbance, weakness; respiratory failure due to aspiration event -
   now extubated with some but not total improvement in mental status.
   1. Altered mental status: Microbiologic stuidies unrevealing to this
   point.  Mental status improving.  ID and Neuro follwing.  Cont
   CTX/Flagyl/azithro (last day of azithro).
   2. Respiratory Failure: Now extubated and doing well.
   3. HIV: cont HAART
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-1-31**] 02:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: